US04711890
1-[(2-phenylquinazolin-4-yl)-carbonyl]-piperidine
The procedure of Example 24 is followed using ethyl 2-phenylquinazoline-4-carboxylate (3.3 g), piperidine, (2.5 ml), a 1.6M solution of butyllithium in hexane (15 ml) and tetrahydrofuran (20 ml) as the starting materials. After recrystallisation from ethanol, 1-[(2-phenylquinazolin-4-yl)-carbonyl]-piperidine (2.6 g), melting at 160° C., is obtained.

reactant | ethyl 2-phenylquinazoline-4-carboxylate | 3.3 g | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=N1)C(=O)OCC | C17H14N2O2
reactant | piperidine | 2.5 ml | N1CCCCC1 | C5H11N
reactant | butyllithium | C(CCC)[Li]
solvent | hexane | 15 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-[(2-phenylquinazolin-4-yl)-carbonyl]-piperidine | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=N1)C(=O)N1CCCCC1 | C20H19N3O
